US04284619
One ml of o-iodobenzoyl chloride was reacted with 2.7 g of 1-octadecanol in accordance with the procedure of Example 8. There was obtained 2.36 g of octadecyl o-iodobenzoate, mp 35°, Rf 0.66.

reactant | o-iodobenzoyl chloride | One ml | IC1=C(C(=O)Cl)C=CC=C1 | C7H4ClIO
reactant | 1-octadecanol | 2.7 g | C(CCCCCCCCCCCCCCCCC)O | C18H38O
product | octadecyl o-iodobenzoate | 2.36 g | IC1=C(C(=O)OCCCCCCCCCCCCCCCCCC)C=CC=C1 | C25H41IO2
